US06100278
(2S,4R) (4-(Benzyloxy)-1-(2-naphthalenesulphonyl)-2-pyrrolidinyl)acetic acid.
2.62 g of (2S,4R)-4-hydroxyproline are dissolved in 15 ml of water containing 5.9 g of Na2CO3 and 5.21 g of 2-naphthalenesulphonyl chloride are added. After vigorous stirring for 18 hours at RT, the mixture is drained and the filtrate is then acidified to pH=1. The resulting mixture is again drained, washed with water and dried in order to obtain 4.1 g of the expected compound.

reactant | (2S,4R)-4-hydroxyproline | 2.62 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | 2-naphthalenesulphonyl chloride | 5.21 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 15 ml, 5.9 g | O | H2O
product | (2S,4R) (4-(Benzyloxy)-1-(2-naphthalenesulphonyl)-2-pyrrolidinyl)acetic acid | 4.1 g | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)CC(=O)O | C23H23NO5S
